US05541229
4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid-(N-methanesulphonyl)-amide
Prepared in analogous manner to Example 198 from 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid and thionyl chloride/methanesulphon-amide.

reactant | 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C25H24N2O2
reactant | thionyl chloride methanesulphon-amide | S(=O)(Cl)Cl.CS(=O)(=O)N
product | 4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid-(N-methanesulphonyl)-amide | CS(=O)(=O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CCCC | C26H27N3O3S
